US08937071B2
A solution of 2-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide (100 mg, 0.358 mmol), 2-(benzyloxy)-4-ethoxy-5-iodopyridine (127 mg, 0.358 mmol), PdCl2(dppf) (26.2 mg, 0.036 mmol) and Cs2CO3 (233 mg, 0.717 mmol) in 1,4-dioxane (6 mL) and H2O (2 mL) was stirred at 110° C. for 15 min. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The residue was dissolved in EA (40 mL) and washed with H2O (20 mL) and brine (20 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The crude product was purified by preparative TLC (PE/EA=1/1) to yield 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-3-fluorophenyl)acetamide (20 mg, 0.358 mmol, 14.8% yield): 1H NMR (400 MHz, CD3OD) δ 7.87 (s, 1H), 7.56-7.43 (m, 2H), 7.43-7.22 (m, 4H), 7.21-7.11 (m, 2H), 6.50 (s, 1H), 5.38 (s, 2H), 4.13 (m, 2H), 3.58 (s, 2H), 1.32 (t, J=6.8 Hz, 3H); ES-LCMS m/z 381.1 (M+H).

reactant | 2-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide | 0.358 mmol, 100 mg | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)CC(=O)N | C14H19BFNO3
reactant | 2-(benzyloxy)-4-ethoxy-5-iodopyridine | 0.358 mmol, 127 mg | C(C1=CC=CC=C1)OC1=NC=C(C(=C1)OCC)I | C14H14INO2
reactant | Cs2CO3 | 0.717 mmol, 233 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
catalyst | PdCl2(dppf) | 0.036 mmol, 26.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-3-fluorophenyl)acetamide | 0.358 mmol, 20 mg, 14.8% yield | C(C1=CC=CC=C1)OC1=CC(=C(C=N1)C1=C(C=C(C=C1)CC(=O)N)F)OCC | C22H21FN2O3
